US05650533
n-Butyllithium (2.5M in hexane, 100 ml) was added to a cooled solution of 2-chloro-6-fluorotoluene (36.1 g) in dry tetrahydrofuran while maintaining the temperature below -60° C. The mixture was stirred at -78° C. overnight then poured onto solid carbon dioxide pellets. The mixture was stirred and allowed to warm to room temperature. It was acidified to pH 1 and extracted with ether. The organic layer was extracted into aqueous sodium hydroxide solution (2M) and water. The combined aqueous extracts were acidified to pH 1 and the solid formed was filtered off and washed with water and n-hexane to give 4-chloro-2-fluoro-3-methylbenzoic acid (40.35 g) as a white solid, NMR (DMSO-d6) 2.3(d,3H), 7.4(d, 1H) 7.7(t, 1H).

reactant | n-Butyllithium | 2.5M, 100 ml | C(CCC)[Li]
reactant | 2-chloro-6-fluorotoluene | 36.1 g | ClC1=C(C(=CC=C1)F)C | C7H6ClF
reactant | carbon dioxide | C(=O)=O | CO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-chloro-2-fluoro-3-methylbenzoic acid | 40.35 g | ClC1=C(C(=C(C(=O)O)C=C1)F)C | C8H6ClFO2
